US07157488B2
2-(5-Chloro-1H-Indol-3-yl)-2-oxo-acetyl chloride
Combine 5-chloroindole (20 g, 0.13 mole) and dibutyl ether (230 mL) and cool to 5° C. and slowly add the oxalyl chloride (20.08 g, 0.16 mole) over 15 min while maintaining the temperature between 5° C. and 10° C. Warm to room temperature and stir for 1 hour to give a solid. Cool to 5° C. and stir for 15 minutes, collect the solid by filtration, wash with dibutyl ether, and dry under vacuum to give the title compound.

reactant | 5-chloroindole | 0.13 mole, 20 g | ClC=1C=C2C=CNC2=CC1 | C8H6ClN
reactant | oxalyl chloride | 0.16 mole, 20.08 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dibutyl ether | 230 mL | C(CCC)OCCCC | C8H18O
product | 2-(5-Chloro-1H-Indol-3-yl)-2-oxo-acetyl chloride | ClC=1C=C2C(=CNC2=CC1)C(C(=O)Cl)=O | C10H5Cl2NO2
